US08013156B2
N-[3,5-bis(trifluoromethyl)phenyl]-4-(2-{[(2,3,5,6-tetrafluoropyridin-4-yl)amino]methyl}phenyl)piperazine-1-carboxamide.
4-(2-Aminomethyl-phenyl)piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)amide (50 mg, 0.11 mmol) was dissolved in 500 mL of acetonitrile. Then, triethylamine (20 L, 0.14 mmol) was added, followed by pentafluoropyridine (16 μL, 0.15 mmol). The reaction was stirred at room temperature overnight. The reaction mixture was diluted to 2 mL in volume with methanol and the mixture was purified by reverse phase HPLC to give 44 mg of the product as a white solid. 1H NMR (CDCl3) δ 7.87 (s, 2H), 7.51 (s, 1H), 7.29-7.36 (m, 2H), 7.16-7.21 (m, 2H), 6.78 (s, 1H), 5.90 (br s, 1H), 4.79 (d, 2H), 3.71 (m, 4H), 3.02 (t, 4H) ppm.

reactant | 4-(2-Aminomethyl-phenyl)piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)amide | 0.11 mmol, 50 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)CN)(F)F | C20H20F6N4O
reactant | triethylamine | 0.14 mmol, 20 L | C(C)N(CC)CC | C6H15N
reactant | pentafluoropyridine | 0.15 mmol, 16 μL | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-(2-{[(2,3,5,6-tetrafluoropyridin-4-yl)amino]methyl}phenyl)piperazine-1-carboxamide | 44 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)CNC1=C(C(=NC(=C1F)F)F)F)(F)F | C25H19F10N5O
